US06670372B2
Under a nitrogen atmosphere, 1-[2-(2-propynyloxy)ethyl]-1H-imidazo[4,5-c]quinolin-4-amine (0.5 g, 1.9 mmol), copper (I) iodide (0.036 g, 0.2 mmol), 4-iodo-orthoxylene (0.5 g, 2.1 mmol) and pyrrolidine (10 mL) were combined and stirred at ambient temperature. Dichlorobis(triphenylphosphine)palladium(II) (0.066 g, 0.1 mmol) was added and the reaction mixture was stirred at ambient temperature for 1 hour. Analysis by TLC (30% methanol in chloroform) indicated that starting material was still present. The reaction mixture was heated at 65° C. overnight. The pyrrolidine was removed under reduced pressure. The resulting residue was triturated with dichloromethane containing methanol. The insoluble material was isolated by filtration and then recrystallized from toluene (40 mL) to provide 0.1 g of 1-(2-{[3-(3,4-dimethylphenyl)-2-propynyl]oxy}ethyl]-1H-imidazo[4,5-c]quinolin-4-amine as a solid, m.p. 214-216° C. Analysis: Calculated for C23H22N4O: %C, 74.57; %H, 5.99; %N, 15.12; Found: %C, 74.24; %H, 5.98; %N, 15.08. 1H-NMR (300 MHz; DMSO-d6) δ (ppm) 8.167(s, 1H), 8.112(d, J=7.3 Hz, 1H), 7.628(d, J=8.3 Hz, 1H), 7.44(t, J=7.3 Hz, 1H), 7.232(t, J=6.8 Hz, 1H), 7.078(d, J=7.8 Hz, 1H), 7.024(s, 1H), 6.952(d, J=7.9 Hz, 1H), 6.586(s, 2H), 4.849(t, J=5 Hz, 2H), 4.365(s, 2H), 4.015(t, J=5.6 Hz, 2H), 2.197(s, 3H), 2.159(s, 3H).

reactant | 1-[2-(2-propynyloxy)ethyl]-1H-imidazo[4,5-c]quinolin-4-amine | 1.9 mmol, 0.5 g | C(C#C)OCCN1C=NC=2C(=NC=3C=CC=CC3C21)N | C15H14N4O
reactant | 4-iodo-orthoxylene | 2.1 mmol, 0.5 g | IC=1C=C(C(=CC1)C)C | C8H9I
reactant | pyrrolidine | 10 mL | N1CCCC1 | C4H9N
reactant | methanol | CO | CH4O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
catalyst | copper (I) iodide | 0.2 mmol, 0.036 g | [Cu]I
catalyst | Dichlorobis(triphenylphosphine)palladium(II) | 0.1 mmol, 0.066 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 1-(2-{[3-(3,4-dimethylphenyl)-2-propynyl]oxy}ethyl]-1H-imidazo[4,5-c]quinolin-4-amine | 0.1 g | CC=1C=C(C=CC1C)C#CCOCCN1C=NC=2C(=NC=3C=CC=CC3C21)N | C23H22N4O
